US07579359B2
A mixture of N-(4-hydroxy[1,5]naphthyridin-3-yl)pentanamide (2.5 g, 11 mmol), N-phenyl-bis(trifluoromethanesulfonimide) (4.6 g, 13 mmol), and triethylamine (2.2 mL, 16 mmol) in DMF (25 mL) was stirred at room temperature for one hour, heated at 75° C. for one hour, and stirred at room temperature for three days. An analysis by LC/MS indicated the presence of starting material, and the reaction was heated at 75° C. overnight and allowed to cool to room temperature. The mixture was poured onto ice (200 g) and stirred for one hour. A solid was present and was collected by filtration. The filtrate was concentrated under reduced pressure to provide 2.7 g of 3-(pentanoylamino)[1,5]naphthyridin-4-yl trifluoromethanesulfonate as a brown oil.

reactant | N-(4-hydroxy[1,5]naphthyridin-3-yl)pentanamide | 11 mmol, 2.5 g | OC1=C(C=NC2=CC=CN=C12)NC(CCCC)=O | C13H15N3O2
reactant | N-phenyl-bis(trifluoromethanesulfonimide) | 13 mmol, 4.6 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | triethylamine | 16 mmol, 2.2 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 3-(pentanoylamino)[1,5]naphthyridin-4-yl trifluoromethanesulfonate | 2.7 g | FC(S(=O)(=O)OC1=C(C=NC2=CC=CN=C12)NC(CCCC)=O)(F)F | C14H14F3N3O4S
